US06166206
a) 5-[(3-{Methanesulphonyloxy}propyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H, 6H)-dione
5-[(3-Hydroxypropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (J. Med. Chem., 1995, 38, 2557) (260 mg), methanesulphonyl chloride (54 μl) and triethylamine (97 μl) were dissolved in dichloromethane (15 ml) and the mixture was stirred overnight. The reaction mixture was poured onto sodium bicarbonate (aqueous) and extracted twice with ethyl acetate. The extracts were combined, dried, filtered and evaporated to give the subtitle compound as a gum (391 mg).

reactant | 5-[(3-Hydroxypropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 260 mg | OCCCSC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H29N3O3S
reactant | methanesulphonyl chloride | 54 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 97 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-[(3-{Methanesulphonyloxy}propyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H, 6H)-dione | 391 mg | CS(=O)(=O)OCCCSC=1N(C=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C26H31N3O5S2
